US06001862
Methyl 2-bromo-3-(3-methoxycarbonyl-4-fluorophenyl)propionate
To a solution of methyl 5-amino-2-fluorobenzoate (4.12 g) in 47% hydrobromic acid (11.4 ml), methanol (20 ml) and acetone (50 ml), a solution of sodium nitrite (1.88 g) in water (3 ml) was slowly added dropwise under cooling with salt-ice and stirring so as to keep an internal temperature of not higher than -5° C. After stirred for 30 minutes as it was, ice bath was removed, methyl acrylate (13.3 ml) was added, and cuprous oxide (225 mg) was added little by little while stirring vigorously. After no nitrogen became to generate, the reaction liquor was concentrated under reduced pressure. The residue was dissolved into ethyl acetate, washed with water, saturated aqueous solution of sodium hydrogencarbonate and water in order, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by means of silica gel column chromatography (developing solvent; n-hexane:ethyl acetate=10:1) to obtain 3.48 g (45%) of aimed compound as an oily material.

reactant | methyl 5-amino-2-fluorobenzoate | 4.12 g | NC=1C=CC(=C(C(=O)OC)C1)F | C8H8FNO2
reactant | sodium nitrite | 1.88 g | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 11.4 ml | Br | BrH
solvent | methanol | 20 ml | CO | CH4O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | water | 3 ml | O | H2O
product | Methyl 2-bromo-3-(3-methoxycarbonyl-4-fluorophenyl)propionate | 3.48 g, 45% | BrC(C(=O)OC)CC1=CC(=C(C=C1)F)C(=O)OC | C12H12BrFO4
